US04935441
As in example 1, but using 2.4 g 5-hydroxy-flavanone, 20 ml dimethylformamide and 2.8 ml phosphorous oxychloride. Reaction time is forty hours at 75° C. After hydrolysis and usual work up the residual solid is purified by column chromatography. The best fractions are recrystallised in a mixture of toluene and hexane to give pure yellow crystalline 4-chloro-3-formyl-5-hydroxy-flav-3-ene; m.p. 165° C.

reactant | 5-hydroxy-flavanone | 2.4 g | OC1=C2C(CC(OC2=CC=C1)C1=CC=CC=C1)=O | C15H12O3
reactant | phosphorous oxychloride | 2.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-chloro-3-formyl-5-hydroxy-flav-3-ene | ClC1=C(C(OC2=CC=CC(=C12)O)C1=CC=CC=C1)C=O | C16H11ClO3
